US06765012B2
4-Fluoro-3-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (690 mg, 1.2 equiv.) and 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 2.79 mmol, 1 equiv.) to give the named compound as a yellow solid (790 mg, 77.0%).

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 690 mg, 1.2 equiv. | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.79 mmol, 500 mg, 1 equiv. | FC1=C2C(C(NC2=CC=C1)=O)=CO | C9H6FNO2
product | 4-Fluoro-3-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 790 mg, 77.0% | FC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)OCCN1CCCC1 | C21H22FN3O2
